US07429581B2
(ii) 4-(4-Nitro-phenyl)-morpholin-3-one
To a solution of 10 g 4-(4-Nitro-phenyl)-morpholine in 200 ml DCM, 32 g Benzyl-triethyl-ammonium chloride and 22.7 g potassium permanganate (325 mesh) were cautiously added at RT. After stirring for 1 h at RT the reaction mixture was heated to reflux for 10 h. Then a solution of 95 g Na2SO3 in 450 ml water were added under ice cooling and vigourous stirring. The mixture was filtered through a pad of celite and the filtrate was concentrated under reduced pressure. The yellow solid was stirred with 250 ml water and the precipitated product was collected by filtration. This crude product was purified by chromatography on silica gel eluting with a gradient of DCM/MeOH 100%->50%. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 2.6 g.

reactant | 4-(4-Nitro-phenyl)-morpholine | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCOCC1 | C10H12N2O3
reactant | potassium permanganate | 22.7 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Na2SO3 | 95 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | Benzyl-triethyl-ammonium chloride | 32 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 450 ml | O | H2O
product | 4-(4-Nitro-phenyl)-morpholin-3-one | [N+](=O)([O-])C1=CC=C(C=C1)N1C(COCC1)=O | C10H10N2O4
